US08217069B2
To a suspension of 1,2,3,4-tetrahydroquinoline (3.12 g) and sodium hydrogen carbonate (2.66 g) in tetrahydrofuran (60 mL) were added water (6 mL) and a solution of 4-chloro-3-nitrobenzenesulfonyl chloride (5.4 g) in tetrahydrofuran (30 mL) successively, and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, and the resulting mixture was washed with water, 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 1-[(4-chloro-3-nitrophenyl)-sulfonyl]-1,2,3,4-tetrahydroquinoline (5.0 g). This material was dissolved in tetrahydrofuran (45 mL). To the solution were added methanol (45 mL), nickel(II) bromide (0.15 g) and sodium borohydride (1.61 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate, and the resulting mixture was washed with a saturated aqueous sodium hydrogen carbonate solution, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1) to give the title compound (4.33 g).

reactant | 1,2,3,4-tetrahydroquinoline | 3.12 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | sodium hydrogen carbonate | 2.66 g | C(O)([O-])=O.[Na+]
reactant | water | 6 mL | O | H2O
reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 5.4 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(4-chloro-3-nitrophenyl)-sulfonyl]-1,2,3,4-tetrahydroquinoline | 5.0 g | ClC1=C(C=C(C=C1)S(=O)(=O)N1CCCC2=CC=CC=C12)[N+](=O)[O-] | C15H13ClN2O4S
